US07358248B2
(2R)-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfonyl]-2-tert-butoxycarbonylaminopropionic acid
Sodium perborate tetrahydrate (320 mg, 2.1 mmol) was added as a solid to a stirred solution of (2R)-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfanyl]-2-tert-butoxycarbonylamino-propionic acid (440 mg, 0.74 mmol) in acetic acid (10 mL) at 40° C. This solution was stirred at 40° C. for 2 hours (HPLC control) and then diluted with ethyl acetate (50 mL), washed with water, brine (2×), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 15% methanol in methylene chloride as eluent, afforded the title compound as a white solid (426 mg, 92%): mp. 202-203° C. Rf=0.40 (20% methanol in dichloromethane). 1H NMR (DMSO-d6, 300 MHz) δ 7.84 (2H, d, J=9 Hz, Ar—H), 7.74 (2H, d, J=9 Hz, Ar—H), 7.60 (4H, m, Ar—H), 7.48 (2H, d, J=9 Hz, Ar—H), 7.29 (5H, m, Ar—H), 7.22 (2H, d, J=8 Hz, Ar—H), 6.58 (1H, br s, NH), 4.51 (2H, s, PhCH2), 4.27 (2H, s, PhCH2S), 4.16 (1H, m, CHN), 3.56 (1H, dd, J=15, 5 Hz, CHHCHN), 3.20 (1H, dd, J=15, 8 Hz, CHHCHN), 1.37 (9H, s, tBu); ESI-LCMS e/z calcd for C36H35NO7S 625.739, found 626 (M+H)+.

reactant | Sodium perborate tetrahydrate | 2.1 mmol, 320 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | (2R)-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfanyl]-2-tert-butoxycarbonylamino-propionic acid | 0.74 mmol, 440 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)CSC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C=C1)C=CC=C2 | C36H35NO5S
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-3-[4′-(2-benzylbenzofuran-3-yl)biphen-4-ylmethylsulfonyl]-2-tert-butoxycarbonylaminopropionic acid | 426 mg, 92% | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)CS(=O)(=O)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C=C1)C=CC=C2 | C36H35NO7S
